US06235789B1
(E)-1-[2-[3-(4-Methoxyphenyl)ureido]ethylidene]-7-methoxy-1,2,3,4-tetrahydronaphthalene
To a solution of 1-(2-aminoethylidene)-7-methoxy-1,2,3,4-tetrahydronaphthalene (3.0 g, 14.8 mmol) in THF (20 ml) was gradually added dropwise, under ice cooling, 4-methoxyphenyl isocyanate (2.2 g, 14.8 mmol). The mixture was stirred for 30 minutes at room temperature. The reaction mixture was then poured into water. The organic layer was subjected to extraction with 10% methanol/chloroform. The extract solution was washed with brine and water, which was dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by means of a silica gel column chromatography (ethyl acetate:hexane=6:4), followed by recrystallization from ethyl acetate/methanol to give the above-titled compound (2.8 g, yield 54%).

reactant | 1-(2-aminoethylidene)-7-methoxy-1,2,3,4-tetrahydronaphthalene | 14.8 mmol, 3.0 g | NCC=C1CCCC2=CC=C(C=C12)OC | C13H17NO
reactant | 4-methoxyphenyl isocyanate | 14.8 mmol, 2.2 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (E)-1-[2-[3-(4-Methoxyphenyl)ureido]ethylidene]-7-methoxy-1,2,3,4-tetrahydronaphthalene | 2.8 g, yield 54% | COC1=CC=C(C=C1)NC(NC\C=C\1/CCCC2=CC=C(C=C12)OC)=O | C21H24N2O3
